* C:\FOSSEE\eSim\library\SubcircuitLibrary\M5228\M5228.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 07/12/25 14:22:19

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
Q5  Net-_Q1-Pad3_ Net-_Q17-Pad2_ Net-_Q5-Pad3_ eSim_PNP		
Q9  Net-_C3-Pad2_ Net-_Q9-Pad2_ Net-_Q1-Pad3_ eSim_PNP		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_PNP		
R3  Net-_J1-Pad1_ Net-_Q5-Pad3_ 8.7k		
Q7  Net-_C3-Pad2_ Net-_Q1-Pad1_ Net-_Q7-Pad3_ eSim_NPN		
Q3  Net-_Q1-Pad1_ Net-_Q1-Pad1_ Net-_C1-Pad1_ eSim_NPN		
R1  Net-_C1-Pad1_ Net-_C1-Pad2_ 5k		
R5  Net-_Q7-Pad3_ Net-_C1-Pad2_ 5k		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 15p		
Q11  Net-_J1-Pad1_ Net-_C3-Pad2_ Net-_Q11-Pad3_ eSim_NPN		
R7  Net-_Q11-Pad3_ Net-_C1-Pad2_ 50k		
C3  Net-_C3-Pad1_ Net-_C3-Pad2_ 15p		
D1  Net-_C3-Pad2_ Net-_C3-Pad1_ eSim_Diode		
Q15  Net-_C3-Pad1_ Net-_Q11-Pad3_ Net-_C1-Pad2_ eSim_NPN		
Q22  Net-_C1-Pad2_ Net-_C3-Pad1_ Net-_Q22-Pad3_ eSim_PNP		
R12  Net-_R11-Pad2_ Net-_Q22-Pad3_ 27		
R11  Net-_Q21-Pad3_ Net-_R11-Pad2_ 27		
Q21  Net-_J1-Pad1_ Net-_Q13-Pad1_ Net-_Q21-Pad3_ eSim_NPN		
R9  Net-_Q13-Pad3_ Net-_C3-Pad1_ 50k		
Q18  Net-_Q13-Pad1_ Net-_Q13-Pad3_ Net-_C3-Pad1_ eSim_NPN		
Q13  Net-_Q13-Pad1_ Net-_Q13-Pad1_ Net-_Q13-Pad3_ eSim_NPN		
Q17  Net-_Q13-Pad1_ Net-_Q17-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q25  Net-_Q17-Pad2_ Net-_Q17-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q27  Net-_Q17-Pad2_ Net-_J1-Pad3_ Net-_Q27-Pad3_ eSim_NPN		
R15  Net-_Q27-Pad3_ Net-_C1-Pad2_ 5.8k		
J1  Net-_J1-Pad1_ Net-_C1-Pad2_ Net-_J1-Pad3_ jfet_n		
R17  Net-_R11-Pad2_ Net-_R17-Pad2_ 120		
Q30  Net-_J1-Pad3_ Net-_J1-Pad3_ Net-_Q29-Pad1_ eSim_NPN		
Q29  Net-_Q29-Pad1_ Net-_Q29-Pad1_ Net-_C1-Pad2_ eSim_NPN		
Q37  Net-_Q33-Pad3_ Net-_Q37-Pad2_ Net-_Q37-Pad3_ eSim_PNP		
Q41  Net-_C7-Pad2_ Net-_Q41-Pad2_ Net-_Q33-Pad3_ eSim_PNP		
Q33  Net-_Q33-Pad1_ Net-_Q33-Pad2_ Net-_Q33-Pad3_ eSim_PNP		
R21  Net-_J1-Pad1_ Net-_Q37-Pad3_ 8.7k		
Q39  Net-_C7-Pad2_ Net-_Q33-Pad1_ Net-_Q39-Pad3_ eSim_NPN		
Q35  Net-_Q33-Pad1_ Net-_Q33-Pad1_ Net-_C5-Pad1_ eSim_NPN		
R19  Net-_C5-Pad1_ Net-_C1-Pad2_ 5k		
R23  Net-_Q39-Pad3_ Net-_C1-Pad2_ 5k		
C5  Net-_C5-Pad1_ Net-_C1-Pad2_ 15p		
Q43  Net-_J1-Pad1_ Net-_C7-Pad2_ Net-_Q43-Pad3_ eSim_NPN		
R25  Net-_Q43-Pad3_ Net-_C1-Pad2_ 50k		
C7  Net-_C7-Pad1_ Net-_C7-Pad2_ 15p		
D3  Net-_C7-Pad2_ Net-_C7-Pad1_ eSim_Diode		
Q47  Net-_C7-Pad1_ Net-_Q43-Pad3_ Net-_C1-Pad2_ eSim_NPN		
Q54  Net-_C1-Pad2_ Net-_C7-Pad1_ Net-_Q54-Pad3_ eSim_PNP		
R30  Net-_R29-Pad2_ Net-_Q54-Pad3_ 27		
R29  Net-_Q53-Pad3_ Net-_R29-Pad2_ 27		
Q53  Net-_J1-Pad1_ Net-_Q45-Pad1_ Net-_Q53-Pad3_ eSim_NPN		
R27  Net-_Q45-Pad3_ Net-_C7-Pad1_ 50k		
Q50  Net-_Q45-Pad1_ Net-_Q45-Pad3_ Net-_C7-Pad1_ eSim_NPN		
Q45  Net-_Q45-Pad1_ Net-_Q45-Pad1_ Net-_Q45-Pad3_ eSim_NPN		
Q49  Net-_Q45-Pad1_ Net-_Q37-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q57  Net-_Q37-Pad2_ Net-_Q37-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q59  Net-_Q37-Pad2_ Net-_J3-Pad3_ Net-_Q59-Pad3_ eSim_NPN		
R33  Net-_Q59-Pad3_ Net-_C1-Pad2_ 5.8k		
J3  Net-_J1-Pad1_ Net-_C1-Pad2_ Net-_J3-Pad3_ jfet_n		
R35  Net-_R29-Pad2_ Net-_R35-Pad2_ 120		
Q62  Net-_J3-Pad3_ Net-_J3-Pad3_ Net-_Q61-Pad1_ eSim_NPN		
Q61  Net-_Q61-Pad1_ Net-_Q61-Pad1_ Net-_C1-Pad2_ eSim_NPN		
Q6  Net-_Q10-Pad3_ Net-_Q19-Pad2_ Net-_Q6-Pad3_ eSim_PNP		
Q10  Net-_C4-Pad2_ Net-_Q10-Pad2_ Net-_Q10-Pad3_ eSim_PNP		
Q2  Net-_Q2-Pad1_ Net-_Q2-Pad2_ Net-_Q10-Pad3_ eSim_PNP		
R4  Net-_J1-Pad1_ Net-_Q6-Pad3_ 8.7k		
Q8  Net-_C4-Pad2_ Net-_Q2-Pad1_ Net-_Q8-Pad3_ eSim_NPN		
Q4  Net-_Q2-Pad1_ Net-_Q2-Pad1_ Net-_C2-Pad1_ eSim_NPN		
R2  Net-_C2-Pad1_ Net-_C1-Pad2_ 5k		
R6  Net-_Q8-Pad3_ Net-_C1-Pad2_ 5k		
C2  Net-_C2-Pad1_ Net-_C1-Pad2_ 15p		
Q12  Net-_J1-Pad1_ Net-_C4-Pad2_ Net-_Q12-Pad3_ eSim_NPN		
R8  Net-_Q12-Pad3_ Net-_C1-Pad2_ 50k		
C4  Net-_C4-Pad1_ Net-_C4-Pad2_ 15p		
D2  Net-_C4-Pad2_ Net-_C4-Pad1_ eSim_Diode		
Q16  Net-_C4-Pad1_ Net-_Q12-Pad3_ Net-_C1-Pad2_ eSim_NPN		
Q24  Net-_C1-Pad2_ Net-_C4-Pad1_ Net-_Q24-Pad3_ eSim_PNP		
R14  Net-_R13-Pad2_ Net-_Q24-Pad3_ 27		
R13  Net-_Q23-Pad3_ Net-_R13-Pad2_ 27		
Q23  Net-_J1-Pad1_ Net-_Q14-Pad1_ Net-_Q23-Pad3_ eSim_NPN		
R10  Net-_Q14-Pad3_ Net-_C4-Pad1_ 50k		
Q20  Net-_Q14-Pad1_ Net-_Q14-Pad3_ Net-_C4-Pad1_ eSim_NPN		
Q14  Net-_Q14-Pad1_ Net-_Q14-Pad1_ Net-_Q14-Pad3_ eSim_NPN		
Q19  Net-_Q14-Pad1_ Net-_Q19-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q26  Net-_Q19-Pad2_ Net-_Q19-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q28  Net-_Q19-Pad2_ Net-_J2-Pad3_ Net-_Q28-Pad3_ eSim_NPN		
R16  Net-_Q28-Pad3_ Net-_C1-Pad2_ 5.8k		
J2  Net-_J1-Pad1_ Net-_C1-Pad2_ Net-_J2-Pad3_ jfet_n		
R18  Net-_R13-Pad2_ Net-_R18-Pad2_ 120		
Q32  Net-_J2-Pad3_ Net-_J2-Pad3_ Net-_Q31-Pad1_ eSim_NPN		
Q31  Net-_Q31-Pad1_ Net-_Q31-Pad1_ Net-_C1-Pad2_ eSim_NPN		
Q38  Net-_Q34-Pad3_ Net-_Q38-Pad2_ Net-_Q38-Pad3_ eSim_PNP		
Q42  Net-_C8-Pad2_ Net-_Q42-Pad2_ Net-_Q34-Pad3_ eSim_PNP		
Q34  Net-_Q34-Pad1_ Net-_Q34-Pad2_ Net-_Q34-Pad3_ eSim_PNP		
R22  Net-_J1-Pad1_ Net-_Q38-Pad3_ 8.7k		
Q40  Net-_C8-Pad2_ Net-_Q34-Pad1_ Net-_Q40-Pad3_ eSim_NPN		
Q36  Net-_Q34-Pad1_ Net-_Q34-Pad1_ Net-_C6-Pad1_ eSim_NPN		
R20  Net-_C6-Pad1_ Net-_C1-Pad2_ 5k		
R24  Net-_Q40-Pad3_ Net-_C1-Pad2_ 5k		
C6  Net-_C6-Pad1_ Net-_C1-Pad2_ 15p		
Q44  Net-_J1-Pad1_ Net-_C8-Pad2_ Net-_Q44-Pad3_ eSim_NPN		
R26  Net-_Q44-Pad3_ Net-_C1-Pad2_ 50k		
C8  Net-_C8-Pad1_ Net-_C8-Pad2_ 15p		
D4  Net-_C8-Pad2_ Net-_C8-Pad1_ eSim_Diode		
Q48  Net-_C8-Pad1_ Net-_Q44-Pad3_ Net-_C1-Pad2_ eSim_NPN		
Q56  Net-_C1-Pad2_ Net-_C8-Pad1_ Net-_Q56-Pad3_ eSim_PNP		
R32  Net-_R31-Pad2_ Net-_Q56-Pad3_ 27		
R31  Net-_Q55-Pad3_ Net-_R31-Pad2_ 27		
Q55  Net-_J1-Pad1_ Net-_Q46-Pad1_ Net-_Q55-Pad3_ eSim_NPN		
R28  Net-_Q46-Pad3_ Net-_C8-Pad1_ 50k		
Q52  Net-_Q46-Pad1_ Net-_Q46-Pad3_ Net-_C8-Pad1_ eSim_NPN		
Q46  Net-_Q46-Pad1_ Net-_Q46-Pad1_ Net-_Q46-Pad3_ eSim_NPN		
Q51  Net-_Q46-Pad1_ Net-_Q38-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q58  Net-_Q38-Pad2_ Net-_Q38-Pad2_ Net-_J1-Pad1_ eSim_PNP		
Q60  Net-_Q38-Pad2_ Net-_J4-Pad3_ Net-_Q60-Pad3_ eSim_NPN		
R34  Net-_Q60-Pad3_ Net-_C1-Pad2_ 5.8k		
J4  Net-_J1-Pad1_ Net-_C1-Pad2_ Net-_J4-Pad3_ jfet_n		
R36  Net-_R31-Pad2_ Net-_R36-Pad2_ 120		
Q64  Net-_J4-Pad3_ Net-_J4-Pad3_ Net-_Q63-Pad1_ eSim_NPN		
Q63  Net-_Q63-Pad1_ Net-_Q63-Pad1_ Net-_C1-Pad2_ eSim_NPN		
U1  Net-_R17-Pad2_ Net-_Q1-Pad2_ Net-_Q9-Pad2_ Net-_J1-Pad1_ Net-_Q10-Pad2_ Net-_Q2-Pad2_ Net-_R18-Pad2_ Net-_R36-Pad2_ Net-_Q34-Pad2_ Net-_Q42-Pad2_ Net-_C1-Pad2_ Net-_Q41-Pad2_ Net-_Q33-Pad2_ Net-_R35-Pad2_ PORT		

.end
